US07595398B2
(S)-2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-thiazolidine-3-carboxylic acid benzyl ester (Compound 5350)
A solution of (S)-thiazolidine-2-carboxylic acid [4-(4-cyclopropylcarbamoyl-phenyl)-thiazol-2-yl]-amide (50 mg, 0.13 mmol) in DMF (1 mL) was cooled to 0° C. DIEA (35 μL, 0.20 mmol) was added followed by benzyl chloroformate (30 μL, 0.21 mmol). The reaction was stirred at 0° C. and allowed to warm to ambient temperature over 2 hours. The reaction was filtered and purified by reverse phase HPLC to give the desired product. Yield 36.9 mg. MS: 509.1 (M+H+); H1 NMR (DMSO-d6): δ(ppm) 0.55-0.74 (m, 4H), 2.80-2.91 (m, 1H), 3.10-3.27 (m, 2H), 3.65-3.75 (m, 1H), 3.90-4.04 (m, 1H), 4.94-5.17 (m, 2H), 5.51-5.55 (s, 1H), 7.06-7.41 (m, 5H), 7.79-7.98 (m, 5H), 8.41-8.48 (d, 1H), 12.50-12.60 (m, 1H).

reactant | (S)-thiazolidine-2-carboxylic acid [4-(4-cyclopropylcarbamoyl-phenyl)-thiazol-2-yl]-amide | 0.13 mmol, 50 mg | C1(CC1)NC(=O)C1=CC=C(C=C1)C=1N=C(SC1)NC(=O)[C@@H]1SCCN1 | C17H18N4O2S2
reactant | DIEA | 0.20 mmol, 35 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 0.21 mmol, 30 μL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-thiazolidine-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](SCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CC1)=O)=O | C25H24N4O4S2
